simulator lang=spectre 
global 0 gnd! vdd!
parameters dc_offset=0 run_gatekeeper={{run_gatekeeper}} run_full_char={{run_full_char}} fet_num={{fet_num}} vdd={{vdd}} vcm={{vcm}} tempc={{tempc}} cload_val={{cload_val}} vbiasn0={{vbiasn0}} vbiasp1={{vbiasp1}} nA1={{nA1}} nA2={{nA2}} nA3={{nA3}} nA4={{nA4}} nA5={{nA5}} nA6={{nA6}} nA7={{nA7}} nA8={{nA8}} nB1={{nB1}} nB2={{nB2}} nB3={{nB3}} nB4={{nB4}} nB5={{nB5}} nB6={{nB6}} nB7={{nB7}} nB8={{nB8}}

{% if fet_num == 7 %}
include "{{lstp_path}}/7nfet.pm"
include "{{lstp_path}}/7pfet.pm"
{% elif fet_num == 10 %}
include "{{lstp_path}}/10nfet.pm"
include "{{lstp_path}}/10pfet.pm"
{% elif fet_num == 14 %}
include "{{lstp_path}}/14nfet.pm"
include "{{lstp_path}}/14pfet.pm"
{% elif fet_num == 16 %}
include "{{lstp_path}}/16nfet.pm"
include "{{lstp_path}}/16pfet.pm"
{% elif fet_num == 20 %}
include "{{lstp_path}}/20nfet.pm"
include "{{lstp_path}}/20pfet.pm"
{% endif %}

*--- TOPOLOGY ---*
*--- single_ended_gain_boosted_telescopic_ota_nmos Vbiasn0 Vbiasp1 Vinn Vinp Voutp ---*
*.PININFO Vbiasn0:I Vbiasp1:I Vinn:I Vinp:I Voutp:O
MM0 net10 Vbiasn0 gnd! gnd! nfet l=nA1 nfin=nB1
MM1 net11 Vinp net10 gnd! nfet l=nA2 nfin=nB2
MM2 net12 Vinn net10 gnd! nfet l=nA2 nfin=nB2
MM3 net13 net17 net11 gnd! nfet l=nA3 nfin=nB3
MM4 Voutp net18 net12 gnd! nfet l=nA3 nfin=nB3
MM5 net13 Vbiasp1 net15 vdd! pfet l=nA4 nfin=nB4
MM6 Voutp Vbiasp1 net16 vdd! pfet l=nA4 nfin=nB4
MM7 net15 net15 vdd! vdd! pfet l=nA5 nfin=nB5
MM8 net16 net15 vdd! vdd! pfet l=nA5 nfin=nB5
MM9 net17 net11 gnd! gnd! nfet l=nA6 nfin=nB6
MM10 net17 Vbiasp1 vdd! vdd! pfet l=nA7 nfin=nB7
MM11 net18 net12 gnd! gnd! nfet l=nA6 nfin=nB6
MM12 net18 Vbiasp1 vdd! vdd! pfet l=nA7 nfin=nB7

*--- Bias Values ---*
VN0 (Vbiasn0 gnd!) vsource dc=vbiasn0 type=dc
VP1 (Vbiasp1 gnd!) vsource dc=vbiasp1 type=dc

*--- TESTBENCH ---*
VS (gnd! 0) vsource dc=0 type=dc
V0 (vdd! gnd!) vsource dc=vdd type=dc 
V1 (cm gnd!) vsource dc=vcm type=dc 

Vsig (sig_node 0) vsource type=sine dc=dc_offset mag=1 \
    ampl=0 freq=1M val0=0 val1=0 delay=5n rise=50p fall=50p width=2u period=200n

E_pos (Vinp cm sig_node 0) vcvs gain=1.0

I_probe_p (Voutp Vfb_node_p) iprobe

R_fb_p (Vfb_node_p Vinn) resistor r=1m isnoisy=no

R_sweep_anchor (cm Vinn) resistor r=1G isnoisy=no

E_servo_amp (v_servo_err 0 Voutp cm) vcvs gain=1e6
R_servo_int (v_servo_err v_servo_int) resistor r=1G isnoisy=no
C_servo_int (v_servo_int 0) capacitor c=1F
R_servo_switch (v_servo_int Vinn) resistor r=1G isnoisy=no

Cload_p (Voutp gnd!) capacitor c=cload_val

*--- SIMULATOR OPTIONS ---*
simulatorOptions options rawfmt=psfbin psfversion="1.4.0" reltol=1e-4 vabstol=1e-6 \
    iabstol=1e-12 temp=tempc tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    homotopy=all

*--- SIMULATION TIER 1 ---*
{% if run_gatekeeper %}
dcOp_sim dc 
stb_sim stb probe=I_probe_p start=1 stop=100G dec=10
{% endif %}

*--- SIMULATION TIER 2 ---*
{% if run_full_char %}
set_fb_off alter dev=R_fb_p param=r value=1G
set_servo_on alter dev=R_servo_switch param=r value=1m

xf_sim (Voutp 0) xf start=1 stop=100G dec=10
noise_sim (Voutp 0) noise start=1 stop=100G dec=10 iprobe=Vsig

set_servo_off alter dev=R_servo_switch param=r value=1G
set_anchor_on alter dev=R_sweep_anchor param=r value=1m

swing_sweep dc param=dc_offset start=(-0.1 * vdd) stop=(0.1 * vdd) step=200u

set_anchor_off alter dev=R_sweep_anchor param=r value=1G
set_fb_on alter dev=R_fb_p param=r value=1m
set_src_sine_type alter dev=Vsig param=type value=sine
set_src_sine_ampl alter dev=Vsig param=ampl value=(0.1 * vdd)
set_src_sine_freq alter dev=Vsig param=freq value=1M

thd_pss pss fund=1M harms=10 tstab=2u errpreset=moderate

set_src_pulse_type alter dev=Vsig param=type value=pulse
set_src_val_small alter dev=Vsig param=val1 value=(0.05 * vdd)
set_src_width alter dev=Vsig param=width value=2u

settle_small_tran tran stop=200n step=100p errpreset=conservative

set_src_val_large alter dev=Vsig param=val1 value=(0.2 * vdd)

slew_large_tran tran stop=200n step=100p errpreset=conservative
{% endif %}

*--- DATA EXPORT ---*
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save V0:p Voutp Vinp Vinn MM0:gm MM0:gds MM0:vth MM0:vdsat MM0:vgs MM0:vds MM0:ids MM0:cgg MM0:cgs MM0:cdd MM0:cgd MM0:css MM0:region MM1:gm MM1:gds MM1:vth MM1:vdsat MM1:vgs MM1:vds MM1:ids MM1:cgg MM1:cgs MM1:cdd MM1:cgd MM1:css MM1:region MM2:gm MM2:gds MM2:vth MM2:vdsat MM2:vgs MM2:vds MM2:ids MM2:cgg MM2:cgs MM2:cdd MM2:cgd MM2:css MM2:region MM3:gm MM3:gds MM3:vth MM3:vdsat MM3:vgs MM3:vds MM3:ids MM3:cgg MM3:cgs MM3:cdd MM3:cgd MM3:css MM3:region MM4:gm MM4:gds MM4:vth MM4:vdsat MM4:vgs MM4:vds MM4:ids MM4:cgg MM4:cgs MM4:cdd MM4:cgd MM4:css MM4:region MM5:gm MM5:gds MM5:vth MM5:vdsat MM5:vgs MM5:vds MM5:ids MM5:cgg MM5:cgs MM5:cdd MM5:cgd MM5:css MM5:region MM6:gm MM6:gds MM6:vth MM6:vdsat MM6:vgs MM6:vds MM6:ids MM6:cgg MM6:cgs MM6:cdd MM6:cgd MM6:css MM6:region MM7:gm MM7:gds MM7:vth MM7:vdsat MM7:vgs MM7:vds MM7:ids MM7:cgg MM7:cgs MM7:cdd MM7:cgd MM7:css MM7:region MM8:gm MM8:gds MM8:vth MM8:vdsat MM8:vgs MM8:vds MM8:ids MM8:cgg MM8:cgs MM8:cdd MM8:cgd MM8:css MM8:region MM9:gm MM9:gds MM9:vth MM9:vdsat MM9:vgs MM9:vds MM9:ids MM9:cgg MM9:cgs MM9:cdd MM9:cgd MM9:css MM9:region MM10:gm MM10:gds MM10:vth MM10:vdsat MM10:vgs MM10:vds MM10:ids MM10:cgg MM10:cgs MM10:cdd MM10:cgd MM10:css MM10:region MM11:gm MM11:gds MM11:vth MM11:vdsat MM11:vgs MM11:vds MM11:ids MM11:cgg MM11:cgs MM11:cdd MM11:cgd MM11:css MM11:region MM12:gm MM12:gds MM12:vth MM12:vdsat MM12:vgs MM12:vds MM12:ids MM12:cgg MM12:cgs MM12:cdd MM12:cgd MM12:css MM12:region
saveOptions options save=allpub rawfmt=psfbin
